US08357693B2
A suspension of 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetic acid (80 mg, 0.16 mmol), PyBOP® (46 mg, 0.088 mmol), DIEA (28 μL, 0.16 mmol) in dry CH2Cl2:DMF (2:0.1 mL) was stirred at RT for 15 minutes. To this solution of activated acid was added cyclopropylmethanamine (7.1 mg, 0.10 mmol). After 30 minutes, 1.0 equivalent of DIEA and 0.55 equivalents of PyBOP® were added. After stirring the solution for 15 minutes, 0.65 equivalents of cyclopropylmethanamine were added and the mixture was stirred for an additional 30 minutes. The solvent was removed in vacuo and the crude product was purified using prep HPLC (20-45—90 mins) to afford 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)-N-(cyclopropylmethyl)acetamide. (60 mg, 0.13 mmol, 81%)

reactant | 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetic acid | 0.16 mmol, 80 mg | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(OCC(=O)O)C=CC1 | C23H17N5O3
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.16 mmol, 28 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | cyclopropylmethanamine | 0.10 mmol, 7.1 mg | C1(CC1)CN | C4H9N
reactant | DIEA | 1.0 equivalent | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | 0.55 equivalents | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | cyclopropylmethanamine | 0.65 equivalents | C1(CC1)CN | C4H9N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)-N-(cyclopropylmethyl)acetamide | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(OCC(=O)NCC2CC2)C=CC1 | C27H24N6O2
